US06673811B1
D. Preparation of 3-Dimethylamino-2-[6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acrylic Acid Ethyl Ester
A mixture of [6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acetic acid ethyl ester (5.93 g, 18.3 mmol) and tert-butoxybis(dimethylamino)methane (5.7 mL, 27.5 mmol) at is heated 65° C. for a period of 6 h. The mixture is cooled to room temperature and purified by flash chromatography on silica (gradient elution with 4% MeOH/CHCl3 with 0.1% NH4OH to 6% MeOH/CHCl3 with 0.1% NH4OH) to give the title compound as a dark orange oil: 1H NMR (400 MHz, CDCl3) δ 8.03 (d, 1H, J=9.1 Hz), 7.5 (s, 1H), 6.49 (d, 1H, J=9.1 Hz), 5.00-4.96 (m, 1H), 3.97-3.82 (m, 2H), 2.69 (br s, 6H), 2.60-2.50 (m, 2H), 2.20-2.10 (m, 2H), 2.16 (s, 3H), 1.92-1.85 (m, 2H), 1.74-1.65 (m, 2H), 0.98 (t, 3H, J=7.1 Hz); 13C NMR (100 MHz, CDCl3) δ 167.7, 163.3, 151.7, 150.8, 141.8, 135.5, 109.3, 96.8, 71.7, 59.8, 52.9, 46.3, 43.6, 31.4, 30.9, 14.4; MS (CI) m/z 379.3 (M+1).

reactant | [6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acetic acid ethyl ester | 18.3 mmol, 5.93 g | C(C)OC(CC1=NC(=CC=C1[N+](=O)[O-])OC1CCN(CC1)C)=O | C15H21N3O5
reactant | tert-butoxybis(dimethylamino)methane | 27.5 mmol, 5.7 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 3-Dimethylamino-2-[6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acrylic Acid Ethyl Ester | C(C)OC(C(=CN(C)C)C1=NC(=CC=C1[N+](=O)[O-])OC1CCN(CC1)C)=O | C18H26N4O5
